US04634710
55 ml of acetic anhydride were added dropwise at room temperature to a solution of 19.9 g of 4-methoxy-2,5-dimethylpyridine 1-oxide in 75 ml of chloroform. After boiling under reflux for 2 hours the solution was evaporated, the residue was dissolved in 100 ml of toluene and again evaporated. The residue was taken up in 100 ml of ethyl acetate and the solution was extracted three times with 50 ml of saturated sodium bicarbonate solution. The organic phase was dried over sodium sulfate and evaporated in vacuo. The product was chromatographed on 100 g of silica gel with ether and there was obtained (4-methoxy-5-methyl-2-pyridyl)methyl acetate in the form of an oil.

reactant | acetic anhydride | 55 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-methoxy-2,5-dimethylpyridine 1-oxide | 19.9 g | COC1=CC(=[N+](C=C1C)[O-])C | C8H11NO2
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | (4-methoxy-5-methyl-2-pyridyl)methyl acetate | C(C)(=O)OCC1=NC=C(C(=C1)OC)C | C10H13NO3
